US07728022B2
A mixture of 2,5-bis trifluoromethyl benzaldehyde (21.5 g, 88.8 mmol), tert butyl sulfinamide (16.1 g, 133 mmol) and anhydrous CuSO4 (16.5 g, 103 mmol) in DCM (94 ml) was stirred at room temperature for 16 hours and at reflux for 3 days. The fine suspension was diluted with water and extracted with DCM. The extracts were washed with water, dried (MgSO4) and evaporated in vacuo to an off white solid which was purified by chromatography (silica, 4-10% EtOAc/isohexane) to give the desired N-{(1E)-[2,5-bis(trifluoromethyl)phenyl]methylene}-2-methylpropane-2-sulfinamide as a white crystalline solid (14.8 g, 91%); 1H NMR δ (ppm)(CDCl3): 8.98 (1 H, d, J=1.8 Hz), 8.46 (1 H, s), 7.92-7.85 (2 H, m), 1.29 (9 H, s); m/z (ES+) 346 (MH+).

reactant | 2,5-bis trifluoromethyl benzaldehyde | 88.8 mmol, 21.5 g | FC(C1=C(C=O)C=C(C=C1)C(F)(F)F)(F)F | C9H4F6O
reactant | tert butyl sulfinamide | 133 mmol, 16.1 g | C(C)(C)(C)S(=O)N | C4H11NOS
solvent | DCM | 94 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | CuSO4 | 103 mmol, 16.5 g | [O-]S(=O)(=O)[O-].[Cu+2]
product | N-{(1E)-[2,5-bis(trifluoromethyl)phenyl]methylene}-2-methylpropane-2-sulfinamide | 14.8 g, 91% | FC(C1=C(C=C(C=C1)C(F)(F)F)\C=N\S(=O)C(C)(C)C)(F)F | C13H13F6NOS
